US06610692B1
Step B: 3-Chloro-5-(t-butoxycarbonylaminomethyl)-indole:
To a solution of 5-(t-butoxycarbonylaminomethyl)-indole (0.51 g, 2.05 mmol) in CH2Cl2, (12 mL) under Argon at 15°-20° C. was added N-chlorosuccinimide (0.245 g, 1.82 mmol) portionwise over 1 hr. The reaction stirred 0.5 h and was partitioned with H2O and CH2Cl2. The aquesous layer was extracted with CH2Cl2 (2×), dried over MgSO4, filtered, and concentrated in vacuo to a brown residue. Purification via flash chromatography (25×150 mm column; gradient elution with EtOAc: hexanes, 1:4 to 1:3) yielded a colorless oil:

reactant | 5-(t-butoxycarbonylaminomethyl)-indole | 2.05 mmol, 0.51 g | C(C)(C)(C)OC(=O)NCC=1C=C2C=CNC2=CC1 | C14H18N2O2
reactant | N-chlorosuccinimide | 1.82 mmol, 0.245 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | 3-Chloro-5-(t-butoxycarbonylaminomethyl)-indole | ClC1=CNC2=CC=C(C=C12)CNC(=O)OC(C)(C)C | C14H17ClN2O2
